US08349824B2
To an nitrogen purged suspension of 7-bromo-2-phenyl-[1,2,4]triazolo[1,5-a]pyridine (9 g, 32.8 mmol) in dioxane (180 ml) is added successively tert-butyl carbamate (4.71 g, 39.4 mmol), tris(dibenzylidene-acetone)dipalladium(0) (601 mg, 657 umol), 4,5-bis(diphenylphos-phino)-9,9-dimethylxanthene (760 mg, 1.31 mmol) and cesium carbonate (15 g, 46 mmol). The brown mixture is then stirred for 22 hours at 100° C. under nitrogen atmosphere. The solvent is removed in vacuo and the brown residue partitioned between ethyl acetate and water. The aqueous layer is extracted twice with ethyl acetate and the combined organic layers are washed with water (3×120 ml) and with brine and dried with magnesium sulfate. The solution is concentrated in vacuo to ca 80 ml: crystallization. The suspension is stirred for 10 min in an ice bath and the solid is collected by filtration, washed with little cold ethyl acetate and dried affording (2-phenyl-[1,2,4]triazolo[1,5-a]pyridin-7-yl)-carbamic acid tert-butyl ester (7.09 g) as an off-white solid. The mother liquor is evaporated and the residue (4.79 g) is loaded on silica (16 g). The product is isolated by chromatography on a 120 g silica cartridge (eluent heptane/ethyl acetate 10-50%, 45 min) yielding a second crop of 1.748 g of a white solid. mp.: 200-201° C. dec. MS: m/z=311.3 (M+H+).

reactant | 7-bromo-2-phenyl-[1,2,4]triazolo[1,5-a]pyridine | 32.8 mmol, 9 g | BrC1=CC=2N(C=C1)N=C(N2)C2=CC=CC=C2 | C12H8BrN3
reactant | tert-butyl carbamate | 39.4 mmol, 4.71 g | C(N)(OC(C)(C)C)=O | C5H11NO2
reactant | cesium carbonate | 46 mmol, 15 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dioxane | 180 ml | O1CCOCC1 | C4H8O2
catalyst | tris(dibenzylidene-acetone)dipalladium(0) | 657 umol, 601 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | 4,5-bis(diphenylphos-phino)-9,9-dimethylxanthene | 1.31 mmol, 760 mg | C1(=CC=CC=C1)P(C1=CC=CC=2C(C3=CC=CC(=C3OC12)P(C1=CC=CC=C1)C1=CC=CC=C1)(C)C)C1=CC=CC=C1 | C39H32OP2
product | (2-phenyl-[1,2,4]triazolo[1,5-a]pyridin-7-yl)-carbamic acid tert-butyl ester | 7.09 g | C(C)(C)(C)OC(NC1=CC=2N(C=C1)N=C(N2)C2=CC=CC=C2)=O | C17H18N4O2
